* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE09\LTspice\COMB\COMB07op.asc
J1 C G B JFET
R2 B E {R2}
R1 0 C {R1}
Q1 C B E 0 TBJ
RL E Vnn {RL}
V1 Vpp 0 {Vs}
V2 0 Vnn {Vs}
V3 N001 0 {Vi}
XU2 C N001 0 Vnn G level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.jft
.op
.model JFET NJF(Beta=4m Vto=-3)
.param Vi=-1.75 Vs=20 R1=100 R2=3.9k RL=36
.model TBJ NPN(IS=10f BF=75)
.lib UniversalOpAmp2.lib
.backanno
.end
